US06316445B1
(S)-N-Methyl-N-(2-(3,4-dichlorophenyl)-4-oxobutyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide
Combine (S)-N-methyl-N-(2-(3,4-dichlorophenyl)pent-4-enyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide (5.12 g, 11.5 mmol), acetone/t-butanol/water (2/1/1, 120 mL), and a solution of N-methylmorpholine N-oxide (3.3 g 50% in water). Add a solution of osmium tetraoxide (4.4 g, 4% in water, 13.8 mmol). After 2 hours, evaporate in vacuo to remove most of the acetone and partition the evaporated reaction mixture between dichloromethane and an aqueous 10% solution of sodium thiosulfate. Separate the layers, extract the organic layer with brine, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Combine the residue and tetrahydrofuran/water (4/1 150 mL). Add sodium meta-periodate (2.95 g, 13.8 mmol). After 1.5 hours, filter the reaction mixture, rinse the solids with tetrahydrofuran, and evaporate the filtrate to remove most of the tetrahydrofuran. Dilute the evaporated reaction mixture with dichloromethane. Extract with water, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 1% methanol/dichloromethane, 2% methanol/dichloromethane, and 3% methanol/dichloromethane to give the title compound: Rf=0.20 (silica gel, 6% methanol/dichloromethane).

reactant | (S)-N-methyl-N-(2-(3,4-dichlorophenyl)pent-4-enyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide | 11.5 mmol, 5.12 g | CN(C(C1=C(C=CC(=C1)N1N=NN=C1)OC)=O)C[C@@H](CC=C)C1=CC(=C(C=C1)Cl)Cl | C21H21Cl2N5O2
reactant | N-methylmorpholine N-oxide | 3.3 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium meta-periodate | 13.8 mmol, 2.95 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetraoxide | 13.8 mmol, 4.4 g | [Os](=O)(=O)(=O)=O
solvent | methanol dichloromethane | CO.ClCCl
solvent | tetrahydrofuran water | 150 mL | O1CCCC1.O
solvent | acetone t-butanol water | 120 mL | CC(=O)C.C(C)(C)(C)O.O
product | (S)-N-Methyl-N-(2-(3,4-dichlorophenyl)-4-oxobutyl)-2-methoxy-5-(1H-tetrazol-1-yl)benzamide | CN(C(C1=C(C=CC(=C1)N1N=NN=C1)OC)=O)C[C@@H](CC=O)C1=CC(=C(C=C1)Cl)Cl | C20H19Cl2N5O3
